vin 2 1 0 sin(0 230 2*pi*50)

*MUDAR VALORES DO CAPACITOR E DA RESISTẼNCIA
Ci 4 0 1u
Ri 4 0 1k

Dp1 3 4 Default

* positive limiter
Dp2 5 6 Default
Dp3 6 7 Default
Dp4 7 0 Default

.model Default D



*transformer mudar Ns de acordo com o que quisermos
*fonte: https://sourceforge.net/p/ngspice/discussion/133842/thread/87641fa4/
.subckt IT 1 2 3 0 Np=1 Ns=1
E1 1 2 3 0 {  Np / Ns }
F1 3 0 E1 { -Np / Ns }
.ends it